US05665878
Synthesis of (S)-α-methyl-1,3 benzodioxole-5-ethanol
1 equiv. of 3,4-methylenedioxyphenyl acetone, 0.45 equiv. disodium phosphate, 0.03 equiv. phosphoric acid, 12.5 volumes AD-7 resin and 5.8 volumes of water were mixed together and stirred for 15-60 minutes at 20°-25° C. 2.27 equiv. of glucose were added and Z. rouxii ATCC 14462 is added in an amount of 1.5 grams wet cell paste per gram of ketone (this is 0.375 grams/gram on a dry basis). This mixture was diluted with water to 25 volumes and then gently stirred at 33°-35° C. for 8-16 hours. The mixture was filtered on a 100 mesh (~150 micron) stainless steel screen, and the resin which was retained by the screen was washed with 25 volumes of water split into 4 separate portions. The product, which was adsorbed to the resin, was then desorbed from the resin with 25 volumes of acetone. The acetone/product solution was then stripped to dryness under vacuum to yield the title intermediate as a yellow, medium viscosity oil. The in-situ yield was 97-100%, while the isolated yield was 85-90%. The potency was 80-95% and the EE is 100%.

reactant | 3,4-methylenedioxyphenyl acetone | 1 equiv. | C1OC=2C=C(C=CC2O1)CC(C)=O | C10H10O3
reactant | disodium phosphate | 0.45 equiv. | P(=O)([O-])([O-])O.[Na+].[Na+]
reactant | phosphoric acid | 0.03 equiv. | P(O)(O)(O)=O | H3O4P
reactant | glucose | 2.27 equiv. | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | water | O | H2O
product | (S)-α-methyl-1,3 benzodioxole-5-ethanol | yield was 97-100% | C[C@@H](CC1=CC2=C(OCO2)C=C1)O | C10H12O3
